US07462630B2
Synthesis of (2S)-N-[3-(5H-dibenzo[a,d][7]annulen-5-ylidene)propyl]-N,4-dimethyl-2-(methylamino)pentanamide hydrochloride
5 ml of dichloromethane and 2.5 ml of trifluoroacetic acid were added to 169 mg (0.35 mmol) of t-butyl (1S)-1-{[[3-(5H-dibenzo[a,d][7]annulen-5-ylidene)propyl](methyl)amino]carbonyl}-3-methylbutyl(methyl)carbamat e, and they were stirred at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure. 1 N aqueous sodium hydroxide solution was added thereto to make it basic. After extracting with ethyl acetate, the organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was dissolved in 5 ml of 1,4-dioxane. 4 N hydrochloric acid/1,4-dioxane solution was added to the obtained solution. The resultant mixture was concentrated under reduced pressure to obtain the title compound.

reactant | trifluoroacetic acid | 2.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | t-butyl (1S)-1-{[[3-(5H-dibenzo[a,d][7]annulen-5-ylidene)propyl](methyl)amino]carbonyl}-3-methylbutyl(methyl)carbamat e | 0.35 mmol, 169 mg | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=CCCN(C(=O)[C@H](CC(C)C)N(C(OC(C)(C)C)=O)C)C | C31H40N2O3
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (2S)-N-[3-(5H-dibenzo[a,d][7]annulen-5-ylidene)propyl]-N,4-dimethyl-2-(methylamino)pentanamide hydrochloride | Cl.C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=CCCN(C([C@H](CC(C)C)NC)=O)C | InChI=1S/C26H32N2O.ClH/c1-19(2)18-25(27-3)26(29)28(4)17-9-14-24-22-12-7-5-10-20(22)15-16-21-11-6-8-13-23(21)24;/h5-8,10-16,19,25,27H,9,17-18H2,1-4H3;1H/t25-;/m0./s1
